US08022062B2
3-(tert-Butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyleneamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (285 mg, 0.97 mmol) in methanol (10 mL). Add 7N ammonia in methanol (10 mL) and stir overnight at ambient temperature. Concentrate in vacuo and dissolve the residue in THF (10 mL). Add saturated aqueous NaHCO3 (5 mL) and di-tert-butyl-dicarbonate (254 mg, 1.16 mmol). Stir the reaction mixture at ambient temperature for 4 h. Dilute the mixture with water, extract three times with EtOAc, combine the organic extracts, dry over Na2SO4, filter and concentrate in vacuo to give crude material. Mix thiazole-5-carbaldehyde (165 mg, 1.45 mmol) with above crude residue (0.97 mmol, assuming 100% conversion), acetic acid (87 mg, 1.45 mmol) and 1,2-dichloroethane (10 mL). Stir at ambient temperature for 20 min. Add sodium triacetoxyborohydride and stir under nitrogen overnight. Quench the reaction with saturated aqueous NaHCO3, separate the organic layer and extract the aqueous layer three times with DCM. Combine the organic extracts, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:3) to afford the desired intermediate as a yellow oil (228 mg, 60% three steps). MS (ES+) m/z: 392 (M+H)+.

reactant | 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.97 mmol, 285 mg | NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C12H12ClF3N2O
reactant | ammonia | 7N | N | H3N
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl-dicarbonate | 1.16 mmol, 254 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | thiazole-5-carbaldehyde | 1.45 mmol, 165 mg | S1C=NC=C1C=O | C4H3NOS
reactant | acetic acid | 1.45 mmol, 87 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 3-(tert-Butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyleneamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 228 mg, 60% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)N=CC2=CN=CS2 | C19H22ClN3O2S
